* LIBRARY OF MY CUSTOM COMPONENTS
* Department: DESE, Indian Institute of Science, Bangalore

***************************************************************
* Diodes
***************************************************************
.model Def D()
****************************************************************
*Diode macro model
.SUBCKT diode_power 101 102
DX 101 102 def_power_diode
Rsh 102 103 10000
Csh 103 101 0.01uF
.model def_power_diode D(RS=0.01, CJO=100pF)
.ENDS
*
*-------------------------------------------------
.model switch SW( RON=0.001 )
*$
*-------------------------------------------------
.SUBCKT  power_sw  nSp  nSn  nVcp 
SW      nSp  nDb  nVcp  0  bidir_sw
Dblock  nDb  nSn  d_switch
Dbody   nSn  nSp  d_switch
.model  bidir_sw  SW( RON=0.001 )
.model  d_switch  D()
.ENDS
*
*-----------------------------------------------------------------------------
.SUBCKT PWMtri nPin nPout fs=10000
atri nPin nPtri triout
.model triout triangle(cntl_array=[0 1] freq_array=[{fs} {fs}] out_low = -1.0 out_high = 1.0 duty_cycle = 0.5)
acompare [nPin nPtri] ncout comp_sum
.model comp_sum summer(in_gain=[1.0 -1.0])
alim ncout nPout limit_comp
.model limit_comp limit(gain=1e6 out_lower_limit=0.0 out_upper_limit=1.0 fraction=FALSE)
.ENDS
*
*----------------------------------------------------------------------------
* PV SOURCE
*-----------------------------------------------------------------
* connections:   +ve terminal
*                | -ve terminal
*                | | 
.SUBCKT PVSOURCE 1 2 Isc=1 Vscale=50
*Setting Isc value
VIsc nsc 0 {Isc}
*Setting No. of devices in series 
Vnum ndev 0 {Vscale}
*Using PV model eqn. in B-source
*(nVT)=0.05 -- n=2 and VT=0.025
*a conditional statement is used. If current flow is negative i.e. PV as sink, then the 
*current should get limited to 0 and not allow sink current into PV
Bpv 1 2 i=-(v(nsc)- 1e-7*(exp(v(1,2)/0.05/v(ndev))-1)>0 ? (v(nsc)- 1e-7*(exp(v(1,2)/0.05/v(ndev))-1)) : 0)
.ENDS
*--------------------------------------------------------------------------------
